US04306065
4-[4-(Naphthoxy)piperidinyl]-2-phenylquinazoline.
Equimolar quantities of 4-(4-hydroxypiperidinyl)-2-phenylquinazoline, sodium hydride and 1-fluoronaphthalene are heated in dimethylformamide to prepare the title compound.

reactant | 4-(4-hydroxypiperidinyl)-2-phenylquinazoline | OC1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C19H19N3O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-fluoronaphthalene | FC1=CC=CC2=CC=CC=C12 | C10H7F
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-(Naphthoxy)piperidinyl]-2-phenylquinazoline | C1(=CC=CC2=CC=CC=C12)OC1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C29H25N3O
